US05214138
Synthesis and Purification of Pentosidine from a Synthetic System
Three liters containing 100 mM each of L-arginine, L-lysine and D-ribose, at pH 7.3, Were heated for 1 hr at 80° C. The cooled mixture was poured onto a Buchner funnel filled with Dowex 50×4-400 ion-exchange resin (Aldrich Chem. Co., Inc., Milwaukee, Wisc.) equilibrated according to conditions of Boas (Boas, N. F., J. Biol. Chem., 204, pp. 553-563, 1953). The resin was washed with 2 liters each of water and 1 M pyridine, followed by elution of pentosidine-containing material with 1 liter of 2 N NaOH. The material was then adjusted to pH 7.4 with HCl, concentrated by rotary evaporation, passed through a Bio-Gel P-2 column and purified by HPLC as described above. The material was also chromatographed on Whatman 17 Chr paper (Whatman Inc., Clifton, N.J.) using 1:1 water/pyridine. Upon elution from the paper, the material was reinjected and collected by reversed-phase HPLC using TFA as the counterion.

reactant | L-arginine | 100 mM | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | D-ribose | O=C[C@H](O)[C@H](O)[C@H](O)CO | C5H10O5
product | Pentosidine | C1=CN(C2=NC(=NC2=C1)NCCC[C@@H](C(=O)O)N)CCCC[C@@H](C(=O)O)N | C17H26N6O4
